US08614206B2
5-amino-N-(5-((4S,5R)-4-amino-5-fluoroazepan-1-yl)-1-methyl-1H-pyrazol-4-yl)-2-(2-fluoro-5-methylphenyl)thiazole-4-carboxamide 294
Following the procedure for Example 221 starting from N-(1-(4-amino-1-methyl-1H-pyrazol-5-yl)-5-fluoroazepan-4-yl)-2,2,2-trifluoroacetamide and 5-(tert-butoxycarbonyl-amino)-2-(2-fluoro-5-methylphenyl)thiazole-4-carboxylic acid gave, after purification via silica gel column chromatography (5% MeOH/DCM with 1% 7 N ammonia in MeOH), 294 as a cream solid (107 mg, 48%). 1H NMR (400 MHz, CDCl3) δ 8.73 (s, 1H), 7.90-7.84 (m, 1H), 7.82 (s, 1H), 7.17-7.11 (m, 1H), 7.04 (dd, J=11.1, 8.4 Hz, 1H), 6.10 (s, 2H), 4.95-4.78 (m, 1H), 3.74 (s, 3H), 3.49-3.33 (m, 3H), 3.24-3.11 (m, 2H), 2.40 (s, 3H), 2.40-2.26 (m, 1H), 2.09-1.91 (m, 2H), 1.87-1.77 (m, 1H). Alkyl NH2 not seen. LCMS (ES+) m/z 462 (M+1)

reactant | N-(1-(4-amino-1-methyl-1H-pyrazol-5-yl)-5-fluoroazepan-4-yl)-2,2,2-trifluoroacetamide | NC=1C=NN(C1N1CCC(C(CC1)F)NC(C(F)(F)F)=O)C | C12H17F4N5O
reactant | 5-(tert-butoxycarbonyl-amino)-2-(2-fluoro-5-methylphenyl)thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC(=C1)C)F)C(=O)O | C16H17FN2O4S
product | 5-amino-N-(5-((4S,5R)-4-amino-5-fluoroazepan-1-yl)-1-methyl-1H-pyrazol-4-yl)-2-(2-fluoro-5-methylphenyl)thiazole-4-carboxamide | NC1=C(N=C(S1)C1=C(C=CC(=C1)C)F)C(=O)NC=1C=NN(C1N1CC[C@@H]([C@@H](CC1)F)N)C | C21H25F2N7OS
